US05221727
4,4'-dihydroxy-benzophenone.
The following are further bisphenol components suitable for the preparation of the aromatic polyethers containing ester groups: 3,3,5-Trimethyl-1,1-bis-(4-hydroxyphenyl)-cyclohexane, 3,3,5-trimethyl-1,1-bis-(4-hydroxy-3,5-dimethylphenyl)-cyclohexane, 3,3,5,5-tetramethyl-1,1-bis-(4-hydroxyphenyl)-cyclohexane, 3,3,5,5-tetramethyl-1,1-bis-(4-hydroxy-2,5-dimethylphenyl)cyclohexane, 3,3,5-trimethyl-1,1-bis-(4-hydroxyphenyl)cyclopentane and 3,3,5-trimethyl-1,1-bis-(4-hydroxy-3,5-dimethylphenyl)-cyclopentane.

reactant | 3,3,5-Trimethyl-1,1-bis-(4-hydroxyphenyl)-cyclohexane | CC1(CC(CC(C1)C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C | C21H26O2
reactant | 3,3,5-trimethyl-1,1-bis-(4-hydroxy-3,5-dimethylphenyl)-cyclohexane | CC1(CC(CC(C1)C)(C1=CC(=C(C(=C1)C)O)C)C1=CC(=C(C(=C1)C)O)C)C | C25H34O2
reactant | 3,3,5,5-tetramethyl-1,1-bis-(4-hydroxyphenyl)-cyclohexane | CC1(CC(CC(C1)(C)C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C | C22H28O2
reactant | 3,3,5,5-tetramethyl-1,1-bis-(4-hydroxy-2,5-dimethylphenyl)cyclohexane | CC1(CC(CC(C1)(C)C)(C1=C(C=C(C(=C1)C)O)C)C1=C(C=C(C(=C1)C)O)C)C | C26H36O2
reactant | 3,3,5-trimethyl-1,1-bis-(4-hydroxyphenyl)cyclopentane | CC1(CC(C(C1)C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C | C20H24O2
reactant | 3,3,5-trimethyl-1,1-bis-(4-hydroxy-3,5-dimethylphenyl)-cyclopentane | CC1(CC(C(C1)C)(C1=CC(=C(C(=C1)C)O)C)C1=CC(=C(C(=C1)C)O)C)C | C24H32O2
product | 4,4'-dihydroxy-benzophenone | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
